US05223526
N-(2-Cyclohexylphenyl)-3-(difluoromethyl)-1H-pyrazole-4-carboxamide:
3-(difluoromethyl)-1H-pyrazole-4-carboxylic acid (2.0 g) and 1,1'-carbonyldiimidazole (2.0 g) were mixed in THF (20mL, anhydrous) and stirred for 1 h. 2-Cyclohexylaniline (2.2 g) was added, and the contents were heated at reflux for 2 h. After cooling to RT, the contents were concentrated in vacuo leaving a foam (3.7 g). The foam was chromatographed on silica gel (Waters Prep 500) eluting with EtOAc and hexanes to give the desired amide as a white foam (750 mg). The foam was crystallized from EtOAc /pentane to give the product as a white solid (510 mg).

reactant | 3-(difluoromethyl)-1H-pyrazole-4-carboxylic acid | 2.0 g | FC(C1=NNC=C1C(=O)O)F | C5H4F2N2O2
reactant | 1,1'-carbonyldiimidazole | 2.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-Cyclohexylaniline | 2.2 g | C1(CCCCC1)C1=C(N)C=CC=C1 | C12H17N
solvent | THF | 20mL | C1CCOC1 | C4H8O
product | N-(2-Cyclohexylphenyl)-3-(difluoromethyl)-1H-pyrazole-4-carboxamide | 3.7 g | C1(CCCCC1)C1=C(C=CC=C1)NC(=O)C=1C(=NNC1)C(F)F | C17H19F2N3O
